US03970703
Into a suspension of 0.75 g of 66% sodium hydride-paraffin in 20 cc of dimethylformamide was added a solution of 5.6 g of allyl α-benzyl-α-hydroxyphenylacetate in 10 cc of dimethylformamide under cooling, and the mixture was stirred for 1 hour. Successively, methyl chloride was introduced into the mixture. The reaction mixture was poured in ice-water and the resultant was subjected to extraction with ether. The ether extract was washed with an aqueous solution saturated with sodium chloride, and dried over sodium sulfate. Thereafter, ether was distilled out and paraffin was removed, whereby, 5.1 g oily allyl α-benzyl-α-methoxyphenylacetate, nD25 1.5488 was obtained.

reactant | allyl α-benzyl-α-hydroxyphenylacetate | 5.6 g | C(C1=CC=CC=C1)C(C(=O)OCC=C)(O)C1=CC=CC=C1 | C18H18O3
reactant | methyl chloride | CCl | CH3Cl
solvent | dimethylformamide | 20 cc | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 cc | CN(C=O)C | C3H7NO
product | allyl α-benzyl-α-methoxyphenylacetate | 5.1 g | C(C1=CC=CC=C1)C(C(=O)OCC=C)(OC)C1=CC=CC=C1 | C19H20O3
